US06890916B2
4-Chloro-1-(3,4-dihydro-2H-quinolin-1-yl)butan-1-one
from 3,4-dihydro-2H-quinoline and 4-chlorobutanoyl chloride

reactant | 3,4-dihydro-2H-quinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 4-chlorobutanoyl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 4-Chloro-1-(3,4-dihydro-2H-quinolin-1-yl)butan-1-one | ClCCCC(=O)N1CCCC2=CC=CC=C12 | C13H16ClNO
